US08476261B2
A solution of 8-amino-9,10-difluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]-quinoline-3,1′-cyclopentane]-6-carboxylic acid (13 mg, 0.04 mmol) and N1-(4-methylquinolin-2-yl)ethane-1,2-diamine (10 mg, 0.05 mmol) and 11 μL triethylamine in DMSO (0.3 mL) was stirred at 90° C. for 72 h. The reaction mixture was cooled and freeze-dried overnight. The crude product was taken up in CH2Cl2 and purified by preparative TLC to yield 8-amino-9-fluoro-10-(2-(4-methylquinolin-2-ylamino)ethylamino)-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopentane]-6-carboxylic acid (0.8 mg, 4%) as a yellow solid. MS (EP) m/z: 518 (M++1). (Calcd. for C28H28FN5O4, 517.21).

reactant | 8-amino-9,10-difluoro-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]-quinoline-3,1′-cyclopentane]-6-carboxylic acid | 0.04 mmol, 13 mg | NC1=C2C(C(=CN3C2=C(C(=C1F)F)OCC31CCCC1)C(=O)O)=O | C16H14F2N2O4
reactant | N1-(4-methylquinolin-2-yl)ethane-1,2-diamine | 0.05 mmol, 10 mg | CC1=CC(=NC2=CC=CC=C12)NCCN | C12H15N3
reactant | triethylamine | 11 μL | C(C)N(CC)CC | C6H15N
solvent | DMSO | 0.3 mL | CS(=O)C | C2H6OS
product | 8-amino-9-fluoro-10-(2-(4-methylquinolin-2-ylamino)ethylamino)-7-oxo-2,7-dihydrospiro[[1,4]oxazino[2,3,4-ij]quinoline-3,1′-cyclopentane]-6-carboxylic acid | 0.8 mg, 4% | NC1=C2C(C(=CN3C2=C(C(=C1F)NCCNC1=NC2=CC=CC=C2C(=C1)C)OCC31CCCC1)C(=O)O)=O | C28H28FN5O4
